US06921763B2
cis-Ethyl 4-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanecarboxylate (0.030 g, 0.057 mmol), sodium methoxide (0.0033 g, 0.063 mmol) and methanol (2 mL) were combined and heated in a resealable Schlenk tube for 48 h at 75° C. Purification of the product by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 15.6-16.5 min) afforded cis-methyl 4-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanecarboxylate as a white powder (0.010 g, 0.020 mmol): RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 11.82 min; 1H NMR (DMSO-d6, 400 MHz) δ 10.85 (s, 1H), 8.23 (s, 1H), 7.92 (d, 2H), 7.65 (d, 2H), 7.12 (s, 1H), 6.80 (s, 1H), 4.67 (m, 1H), 3.63 (s, 3H), 3.27 (m, 1H), 2.40 (s, 3H), 2.35 (s, 3H), 2.07 (m, 6H), 1.61 (m, 2H).

reactant | cis-Ethyl 4-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanecarboxylate | 0.057 mmol, 0.030 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)[C@H]1CC[C@H](CC1)C(=O)OCC | C29H31N7O3
reactant | sodium methoxide | 0.063 mmol, 0.0033 g | C[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | cis-methyl 4-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanecarboxylate | 0.020 mmol, 0.010 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)[C@H]1CC[C@H](CC1)C(=O)OC | C28H29N7O3
